US05011943
Heptenol oxide 9
A solution of the methoxy epoxide 8 and 70 ml of a 1M tetrabutylammonium fluoride in THF solution in 20 ml THF was stirred at RT for 1 hour. The solution was then poured into water and this aqueous solution was extracted 3× with 150 ml of 1 hexane: 1 EtOAc. The organic phases were dried with sodium sulfate and concentrated under vacuum to provide the title compound.

reactant | tetrabutylammonium fluoride | 1M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | O | H2O
reactant | THF | C1CCOC1 | C4H8O
reactant | THF | 20 ml | C1CCOC1 | C4H8O
product | Heptenol oxide | C1(C(CCCCC)O1)O | C7H14O2
